US06184225B2
A mixture of 6-methoxy-7-(2-methylthioethoxy)-4-phenoxyquinazoline (1.5 g, 4.4 mmol) and 2M hydrochloric acid (25 ml) was heated at 100° C. for 2 hours. The mixture was allowed to cool, and methylene chloride was added with stirring to give a white precipitate. The precipitate was collected by filtration, washed with water and methylene chloride and dried to give 6-methoxy-7-(2-methylthioethoxy)-3,4-dihydroquinazolin-4-one hydrochloride (1.1 g, 83%).

reactant | 6-methoxy-7-(2-methylthioethoxy)-4-phenoxyquinazoline | 4.4 mmol, 1.5 g | COC=1C=C2C(=NC=NC2=CC1OCCSC)OC1=CC=CC=C1 | C18H18N2O3S
reactant | hydrochloric acid | 2M, 25 ml | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-methoxy-7-(2-methylthioethoxy)-3,4-dihydroquinazolin-4-one hydrochloride | 1.1 g, 83% | Cl.COC=1C=C2C(NC=NC2=CC1OCCSC)=O | InChI=1S/C12H14N2O3S.ClH/c1-16-10-5-8-9(13-7-14-12(8)15)6-11(10)17-3-4-18-2;/h5-7H,3-4H2,1-2H3,(H,13,14,15);1H
